US07329680B2
A solution of [5-(4-dibenzofuran-4-yl-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid ethyl ester (0.120 g, 0.275 mmol) in THF (2 mL) and methanol (6 mL) was treated with 10% aq KOH (0.5 mL, 1 mmol) and stirred at room temperature. After 2 h, the solution was acidified with 0.5 N HCl to PH 2-3 and extracted with ethyl acetate (3×15 mL). Purification by flash column chromatography (50% ethyl acetate in heptane) provided [5-(4-dibenzofuran-4-yl-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid (0.108 g, 95%) as a white crystalline solid.

reactant | [5-(4-dibenzofuran-4-yl-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid ethyl ester | 0.275 mmol, 0.120 g | C(C)OC(CN1N=C(CC1C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)C1=CC=C(C=C1)OC)=O | C32H28N2O4
reactant | KOH | 1 mmol, 0.5 mL | [OH-].[K+]
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | [5-(4-dibenzofuran-4-yl-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid | 0.108 g, 95% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)C3CC(=NN3CC(=O)O)C3=CC=C(C=C3)OC | C30H24N2O4
